US06150533
N-[2-(2,3-Diamino-phenoxy)-ethyl]-2,2,2-trifluoro-N-[3-(1H-indol-3-yl)-propyl]-acetamide
To a solution containing N-[2-(2-amino-3-nitro-phenoxy)-ethyl]-2,2,2-trifluoro-N-[3-(1H-indol-3-yl)-propyl]-acetamide (3.86 g, 8.57 mmol) in ethanol (40 ml) under nitrogen was added 10% palladium on carbon (1 g). The mixture was hydrogenated at 40 psi for 6 hours. The catalyst was filtered, washed with ethanol and the filtrate was concentrated to give the crude product. Purification by chromatography (40% ethyl acetate-hexanes) afforded 2.8 g (78.8%) of product as a viscous brown oil; MS EI m/e 420 (M+).

reactant | N-[2-(2-amino-3-nitro-phenoxy)-ethyl]-2,2,2-trifluoro-N-[3-(1H-indol-3-yl)-propyl]-acetamide | 8.57 mmol, 3.86 g | NC1=C(OCCN(C(C(F)(F)F)=O)CCCC2=CNC3=CC=CC=C23)C=CC=C1[N+](=O)[O-] | C21H21F3N4O4
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | N-[2-(2,3-Diamino-phenoxy)-ethyl]-2,2,2-trifluoro-N-[3-(1H-indol-3-yl)-propyl]-acetamide | 2.8 g, 78.8% | NC1=C(OCCN(C(C(F)(F)F)=O)CCCC2=CNC3=CC=CC=C23)C=CC=C1N | C21H23F3N4O2
